US07074970B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (0.01 mmol) and sodium acetate (1.2 mmol) in toluene (2.0 ml),triethylene glycol (1 mmol) and vinyl acetate (4 mmol) were added, followed by stirring at 100° C. in an atmosphere of argon gas for 6 hours. The reaction mixture was analyzed by gas chromatography to find that triethylene glycol divinyl ether, triethylene glycol monovinyl ether, and triethylene glycol monovinyl ether monoacetate were produced in yields of 63%, 3%, and 18%, respectively, with a conversion from triethylene glycol of 100%.

reactant | sodium acetate | 1.2 mmol | C(C)(=O)[O-].[Na+]
reactant | triethylene glycol | 1 mmol | C(COCCOCCO)O | C6H14O4
reactant | vinyl acetate | 4 mmol | C(C)(=O)OC=C | C4H6O2
reactant | triethylene glycol divinyl ether | C(=C)OCCOCCOCCOC=C | C10H18O4
reactant | triethylene glycol monovinyl ether | C(=C)OCCOCCOCCO | C8H16O4
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | triethylene glycol monovinyl ether monoacetate | C(C)(=O)OCCOCCOCCOC=C | C10H18O5
